* AMCAS Task 4: High Temperature (85C)
.include 45nm_bulk.txt
.param VDD=1.1 VBL=1.1
.options temp=85

Vdd vdd 0 'VDD'
Vwl wl 0 PWL (0 0 1n 0 1.05n 'VDD')

MP1 qb q vdd vdd pmos W=0.15u L=0.045u
MN1 qb q 0 0 nmos W=0.20u L=0.045u
MP2 q qb vdd vdd pmos W=0.15u L=0.045u
MN2 q qb 0 0 nmos W=0.20u L=0.045u

MA1 bl wl q 0 nmos W=0.16u L=0.045u
MA2 blb wl qb 0 nmos W=0.16u L=0.045u

Cbl bl 0 180f IC='VBL'
Cblb blb 0 180f IC='VBL'

.ic v(q)=0 v(qb)='VDD'

.control
tran 5p 4n uic
let vdiff = v(blb) - v(bl)
meas tran dv FIND vdiff AT=2.0n
.endc
.end